US04791055
A. 4-(3-chloro-2-hydroxypropylamino)-N-methylphthalimide
Twenty-five grams (0.142 mole) 4-amino-N-methylphthalamide, prepared according to the method described in J. Chem. Soc. 26: (1937), and 20.7 g (0.21 mole) 1-chloro-2,3-epoxypropane were added to 150 ml 2,2,2-trifluoroethanol and the reaction mixture was heated to reflux with stirring for 48 hrs. Seventy to eighty ml of 2,2,2-trifluoroethanol was removed by distillation and a heavy yellow precipitate formed when the remaining solution cooled to room temperature. This precipitate was triturated with ethyl acetate, collected by filtration and dried to give 29.5 g (77% yield) of the desired intermediate m.p. 136°-138.5° C. Calculated for C12H13ClN2O3 ; C, 53.64; H, 4.88; N, 10.45. Found: C, 53.87; H, 4.85; N, 10.81.

reactant | 4-amino-N-methylphthalamide | 0.142 mole, Twenty-five grams | NC=1C=C(C(C(=O)NC)=CC1)C(=O)N | C9H11N3O2
reactant | 1-chloro-2,3-epoxypropane | 0.21 mole, 20.7 g | ClCC1CO1 | C3H5ClO
solvent | 2,2,2-trifluoroethanol | 150 ml | FC(CO)(F)F | C2H3F3O
product | 4-(3-chloro-2-hydroxypropylamino)-N-methylphthalimide | 29.5 g, 77% yield | ClCC(CNC=1C=C2C(C(=O)N(C2=O)C)=CC1)O | C12H13ClN2O3
